### PR TITLE
chore: golf proofs

### PR DESCRIPTION
**Pull request by euprunin**
The goal of this golfing PR is to decrease the number of times lemmas are called explicitly (replacing calls to lemmas with calls to tactics). Any decrease in compilation time is a welcome side effect, although it is not a primary objective.

Trace profiling results (differences <20 ms considered measurement noise):
* `Equiv.preimage_piEquivPiSubtypeProd_symm_pi`: unchanged 🎉
* `Mathlib.Tactic.FieldSimp.NF.cons_ne_zero`: unchanged 🎉
* `Part.fix_le`: unchanged 🎉

This golfing PR is batched under the following guidelines:
* Up to ~5 changed files per PR
* Up to ~25 changed declarations per PR
* Up to ~100 changed lines per PR
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by euprunin** [comment]
!bench

**Comment by euprunin** [comment]
!bench

File: Mathlib/Control/LawfulFix.lean [hunk 1]
```diff
@@ -140,7 +140,7 @@ theorem fix_le {X : (a : _) → Part <| β a} (hX : f X ≤ X) : Part.fix f ≤
   simp only [Fix.approxChain]
   intro i
   induction i with
-  | zero => dsimp [Fix.approx]; apply bot_le
+  | zero => exact bot_le
```
Comment (j-loreaux) [inline Mathlib/Control/LawfulFix.lean:143]: I'm curious whether `apply bot_le` works without `dsimp`. If not, I expect that this change is abusing some defeq.

File: Mathlib/Logic/Equiv/Set.lean [hunk 2]
```diff
@@ -580,7 +580,6 @@ theorem preimage_piEquivPiSubtypeProd_symm_pi {α : Type*} {β : α → Type*} (
   ext ⟨f, g⟩
   simp only [mem_preimage, mem_univ_pi, prodMk_mem_set_prod_eq, Subtype.forall, ← forall_and]
   refine forall_congr' fun i => ?_
-  dsimp only [Subtype.coe_mk]
```
Comment (j-loreaux) [inline Mathlib/Logic/Equiv/Set.lean:583]: I think this kind of change isn't worthwhile. If it were for a PR in-flight, sure, but I don't see this being valuable after the fact so much. It's just noise.

File: Mathlib/Tactic/FieldSimp/Lemmas.lean [hunk 3]
```diff
@@ -206,10 +206,7 @@ noncomputable def eval [GroupWithZero M] (l : NF M) : M :=
   simp [mul_comm]
 
 theorem cons_ne_zero [GroupWithZero M] (r : ℤ) {x : M} (hx : x ≠ 0) {l : NF M} (hl : l.eval ≠ 0) :
-    ((r, x) ::ᵣ l).eval ≠ 0 := by
```
Comment (j-loreaux) [inline Mathlib/Tactic/FieldSimp/Lemmas.lean:209]: All that's happening here is that you're writing the on one line. That kind of change is pure noise of no benefit.

**Review by j-loreaux — COMMENTED** [review]
Remember that golfing can be either beneficial or not. I think this PR was not worth it. You've don't a good job overall of heeding the advice of review; please keep it up by trying to make worthwhile changes. If you're golfing, it should be designed to make things either simpler (e.g., by using tactics instead of long manual proofs) or more readable.

File: Mathlib/Tactic/FieldSimp/Lemmas.lean (hunk 3 above)
Comment (euprunin) [reply Mathlib/Tactic/FieldSimp/Lemmas.lean:209]: The intention here was to eliminate the unfolding of `eval` and `cons`, but I see your point.

File: Mathlib/Control/LawfulFix.lean (hunk 1 above)
Comment (euprunin) [reply Mathlib/Control/LawfulFix.lean:143]: Yes, `apply bot_le` works without `dsimp`.
